.include TSMC_180nm.txt

VGS G gnd 1.8V
VDS D gnd 1.8V
 
 M1 D G gnd gnd CMOSN W=1.8u L=0.18u

 .dc VGS 0 1.8 0.05

 .control 
 run
 plot -VDS#branch
 .endc